2189-03-31 10:42:00 Physician Attending Progress Note
Chief Complaint: Hyponatremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Na+ improved to 114 from 103 in past 24 hours--> and increase to 121
   through to this morning
   Cortisol at 25
   Urine OSMs-356 this morning
   Allergies:
   Coumadin (Oral) (Warfarin Sodium)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Piperacillin - [**2189-3-30**] 11:12 PM
   Vancomycin - [**2189-3-31**] 08:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2189-3-31**] 08:41 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2189-3-31**] 10:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.4
C (95.7
   HR: 87 (78 - 110) bpm
   BP: 97/57(68) {80/38(50) - 97/63(69)} mmHg
   RR: 15 (14 - 25) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  3,005 mL
                                                                  1,001 mL
   PO:
             TF:
   IVF:
                                                                  3,005 mL
                                                                  1,001 mL
   Blood products:
   Total out:
                                                                    900 mL
                                                                    498 mL
   Urine:
                                                                    900 mL
                                                                    498 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,105 mL
                                                                    503 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///17/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 3+, Left: 3+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Oriented (to): Place and Year,
   Movement: Not assessed, Tone: Not assessed, Move upper extremities
   Labs / Radiology
   8.9 g/dL
   490 K/uL
   49 mg/dL
   0.7 mg/dL
   17 mEq/L
   4.5 mEq/L
   20 mg/dL
   108 mEq/L
   121 mEq/L
   27.3 %
   21.2 K/uL
        [image002.jpg]
                             [**2189-3-30**]  12:31 AM
                             [**2189-3-30**]  05:30 AM
                             [**2189-3-31**]  04:47 AM
                             [**2189-3-31**]  08:14 AM
   WBC
   22.3
   21.2
   Hct
   28.3
   27.3
   Plt
   446
   490
   Cr
   0.7
   0.7
   0.7
   Glucose
   60
   69
   44
   49
   Other labs: PT / PTT / INR:15.3/33.4/1.4, ALT / AST:35/96, Alk Phos / T
   Bili:496/1.5, Lactic Acid:4.2 mmol/L, Albumin:2.1 g/dL, LDH:765 IU/L,
   Ca++:6.6 mg/dL, Mg++:1.8 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   72 yo male admitted with altered mental status, GI Bleed and
   signfiicant hyponatremia.  He had evidence of functional hypovolemia
   with hypotension, dry MM, tachycardia and with fluid bolus given and
   patient with good response in regards to Na+ and mental status.
   1)hyponatremia-Improvement in Na+ quite reasonable and will maintain
   goal 8-10mEq/d.  Given urine OSM elevation would favor continued 3% NS
   going forward to maintain adequate Na+ provision and will have to
   consider NS bolus to maintain euvolemia and will bolus 1 liter this am
   -NS-500cc now
   -3% at background rate
   -Cortisol reasonable
   -Renal Conult for aid in management of severe and persistent
   hyponatremia with concern for long term support needed in the setting
   of pancreatic CA/Lung process and need for ongoing careful suppport.
   2)Metastatic Pancreatic Cancer
   -Nutrition consult
   -Will eval with speech and swallow prior to po intake
   -Oncology to be made aware and aid in ongoing management
   -Vanco/Zosyn
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 CANCER (MALIGNANT NEOPLASM), HEPATIC (LIVER)
 CANCER (MALIGNANT NEOPLASM), PANCREAS
 IMPAIRED SKIN INTEGRITY
 IMPAIRED PHYSICAL MOBILITY
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2189-3-30**] 12:54 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : To Floor
   Total time spent:  35